US08349849B2
4-octylaniline
A MeOH (20 mL) solution of compound (E)-1-nitro-4-(oct-1-enyl)benzene (2.121 g, 9.0 mmol) and Pd—C (200 mg, 0.9 mmol) was stirred at r.t. for 2 h under hydrogen atmosphere. Then the mixture was filtered and the filtrate was evaporated to give product the title compound (1.586 g, 85%) as a pink liquid. 1H NMR (300 MHz, CDCl3) δ 6.962 (d, 2H), 6.636 (d, 2H), 3.487 (b, 2H), 2.484 (t, 2H), 1.581-1.467 (m, 2H), 1.291-1.166 (m, 10H), 0.874 (t, 3H).

reactant | (E)-1-nitro-4-(oct-1-enyl)benzene | 9.0 mmol, 2.121 g | [N+](=O)([O-])C1=CC=C(C=C1)\C=C\CCCCCC | C14H19NO2
catalyst | Pd—C | 0.9 mmol, 200 mg | [Pd] | Pd
solvent | MeOH | 20 mL | CO | CH4O
product | 4-octylaniline | 1.586 g, 85% | C(CCCCCCC)C1=CC=C(N)C=C1 | C14H23N
